US08937150B2
methyl{(2S)-1-[(2S)-2-{5-[(2R,5R)-1-(4-tert-butylphenyl)-5-{5-fluoro-2-[(2S)-1-{(2S)-2-[(methoxycarbonyl)amino]-3-methylbutanoyl}pyrrolidin-2-yl]-1H-benzimidazol-6-yl}pyrrolidin-2-yl]-6-fluoro-1H-benzimidazol-2-yl}pyrrolidin-1-yl]-3-methyl-1-oxobutan-2-yl}carbamate
To 6,6′-[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} was added DMF (1.0 mL) followed by N-methylmorpholine (0.045 mL, 0.41 mmol), (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (15 mg, 0.09 mmol), EDC (20 mg, 0.1 mmol) and HOBT (16 mg, 0.1 mmol). The solution was stirred at room temperature for 18 hours. The reaction mixture was diluted with EtOAc, washed with H2O and brine, dried (Na2SO4), filtered and concentrated. The product was purified by reverse-phase HPLC chromatography (5-100% CH3CN/0.1% TFA-H2O); the desired fractions were neutralized with aqueous NaHCO3 solution, extracted with EtOAc, dried, filtered and solvent evaporated to give the title compound (6.7 mg, 7.2 μmol, 18%): 1H NMR (400 MHz, CDCl3) δ ppm 10.48 (m, 1H) 10.25 (m, 1H) 7.39 (m, 1H) 7.14 (m, 1H) 6.98 (m, 3H) 6.29 (m, 1H) 5.54 (br s, 1H) 5.34 (br s, 4H) 4.31 (m, 1H) 3.82 (m, 2H) 3.70 (s, 6H) 3.51-3.65 (m, 2H) 3.03 (br s, 2H) 2.51 (br s, 2H) 2.23-2.40 (m, 2H) 2.14 (m, 4H) 1.95 (m, 4H) 1.27 (m, 2H) 1.09-1.23 (m, 9H) 1.07 (m, 3H) 0.87 (m, 9H) 0.67-0.79 (m, 2H); MS (ESI) m/z 924 (M+H)+.

reactant | 6,6′-[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} | C(C)(C)(C)C1=CC=C(C=C1)N1[C@H](CC[C@@H]1C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F)C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F | C36H41F2N7
reactant | N-methylmorpholine | 0.41 mmol, 0.045 mL | CN1CCOCC1 | C5H11NO
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 0.09 mmol, 15 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | EDC | 0.1 mmol, 20 mg
reactant | HOBT | 0.1 mmol, 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | methyl{(2S)-1-[(2S)-2-{5-[(2R,5R)-1-(4-tert-butylphenyl)-5-{5-fluoro-2-[(2S)-1-{(2S)-2-[(methoxycarbonyl)amino]-3-methylbutanoyl}pyrrolidin-2-yl]-1H-benzimidazol-6-yl}pyrrolidin-2-yl]-6-fluoro-1H-benzimidazol-2-yl}pyrrolidin-1-yl]-3-methyl-1-oxobutan-2-yl}carbamate | 7.2 μmol, 6.7 mg, 18% | COC(N[C@H](C(=O)N1[C@@H](CCC1)C1=NC2=C(N1)C=C(C(=C2)[C@@H]2N([C@H](CC2)C=2C(=CC1=C(NC(=N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O)C2)F)C2=CC=C(C=C2)C(C)(C)C)F)C(C)C)=O | C50H63F2N9O6
